US04686217
Diethyl 2-(dimethylaminocarbonyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate
Thionyl chloride (0.05 ml) was added to a solution of 3,5-diethyl 1,4-dihydro-6-methyl-4-(3-nitrophenyl)-2,3,5-pyridinetricarboxylate (0.25 g, 0.62 mmoles) in methylene chloride (10 ml) containing dimethylformamide (1 drop). After 2 hours at room temperature further thionyl chloride (0.05 ml) was added and the solution was refluxed for 30 mins. After cooling to room temperature 10% dimethylamine in benzene (1 ml) was added and the mixture stirred for 30 mins. The solvent was evaporated and the residue dissolved in dilute hydrochloric acid and ether. The organic extract was washed with brine, dried (Na2SO4) and the solvent removed in vacuo to leave the title compound (0.2 g). M+ 431; nmr (CDCl3) δ 5.12 (s,H), 3.05 (s,3H), 2.95 (s,3H).

reactant | Thionyl chloride | 0.05 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-diethyl 1,4-dihydro-6-methyl-4-(3-nitrophenyl)-2,3,5-pyridinetricarboxylate | 0.62 mmoles, 0.25 g | CC1=C(C(C(=C(N1)C(=O)[O-])C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC
reactant | thionyl chloride | 0.05 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | Diethyl 2-(dimethylaminocarbonyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | 0.2 g | CN(C(=O)C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)C | C21H25N3O7
